US08133995B2
Step 4: Preparation of 1-Amino-4-bromo-1H-pyrrole-2-carbonitrile hydrochloride
A 1 L, 3-neck RB flask was fitted with a mechanical stirrer, nitrogen inlet, thermocouple/JKEM thermocontroller, cooling bath and an addition funnel. tert-Butyl (4-bromo-2-cyano-1H-pyrrol-1-yl)carbamate (19 g, 66 mmol) was added and dissolved with 1,4-dioxane (50 mL), then the stirred orange solution was cooled to 0° C. and HCl/dioxane (4N, 100 mL, 8 eq.) was slowly added from the addition funnel, maintaining an internal temperature around 25° C. After 2 hours the solution became cloudy and stirring @ room temperature was continued for 7 hours; the reaction was monitored for completion by TLC (silica gel, GHLF, 1:3 EtOAc/hexane, UV; Note: the free base may be observed as a high-Rf spot and can be misinterpreted as incomplete reaction). The reaction mixture was diluted with diethyl ether (150 mL) and the precipitated solids were collected by suction filtration and washed with ether (200 mL). Drying (vacuum oven @ 50° C.) afforded the desired product as 10.9 g (93%) of a white solid. 1H-NMR (DMSO): δ 7.24 (d, 1H, J=2 Hz), 6.93 (d, 1H, J=2 Hz), 6.2 (bs, 3H, J=2.8, 4.4 Hz).

reactant | tert-Butyl (4-bromo-2-cyano-1H-pyrrol-1-yl)carbamate | 66 mmol, 19 g | BrC=1C=C(N(C1)NC(OC(C)(C)C)=O)C#N | C10H12BrN3O2
reactant | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
reactant | HCl dioxane | 4N, 100 mL, 8 eq. | Cl.O1CCOCC1
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 1-Amino-4-bromo-1H-pyrrole-2-carbonitrile hydrochloride | Cl.NN1C(=CC(=C1)Br)C#N | InChI=1S/C5H4BrN3.ClH/c6-4-1-5(2-7)9(8)3-4;/h1,3H,8H2;1H
